US06706709B2
Lithium aluminum hydride (0.46 g, 12 mmol) was added-5-(2-morpholin-4-yl-2-oxo-ethoxy)-1H-indole-2-carboxylic acid ethyl ester (0.8 g, 2.4 mmol) in tetrahydrofuran (50 mL). The mixture was stirred at room temperature for 16 hours and cooled to 0° C. It was then quenched with water (4.6 mL), 15% sodium hydroxide (4.6 mL) and water (4.6 mL). The precipitate was filtered off and the filtrate was concentrated to give 0.7 g of [5-(2-morpholin-4-yl-ethoxy)-1H-indol-2-yl]-methanol.

reactant | Lithium aluminum hydride | 12 mmol, 0.46 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-(2-morpholin-4-yl-2-oxo-ethoxy)-1H-indole-2-carboxylic acid ethyl ester | 2.4 mmol, 0.8 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)OCC(=O)N1CCOCC1 | C17H20N2O5
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | [5-(2-morpholin-4-yl-ethoxy)-1H-indol-2-yl]-methanol | 0.7 g | N1(CCOCC1)CCOC=1C=C2C=C(NC2=CC1)CO | C15H20N2O3
